2105-11-14 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Admitted overnight. Transfused 3 units of pRBCs; Hct now increased
   appropriately.
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-11-14**] 08:05 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2105-11-13**] 07:09 PM
   Pantoprazole (Protonix) - [**2105-11-14**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-14**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 97 (84 - 111) bpm
   BP: 146/52(73) {89/11(40) - 146/111(119)} mmHg
   RR: 24 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  6,933 mL
                                                                    543 mL
   PO:
           60 mL
   TF:
   IVF:
                                                                  4,020 mL
                                                                    220 mL
   Blood products:
                                                                    813 mL
                                                                    263 mL
   Total out:
                                                                    380 mL
                                                                    305 mL
   Urine:
                                                                    380 mL
                                                                    275 mL
   NG:
   30 mL
   Stool:
   Drains:
   Balance:
                                                                  6,553 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 467 (386 - 544) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.47/28/195/18/-1
   Ve: 11.2 L/min
   PaO2 / FiO2: 390
   Physical Examination
   Gen: elderly man, intubated
   HEENT: pupils 2->1 mm bilaterally
   Lungs: coarse BS bilaterally from anterior
   Heart: regular rhythm, nl S1/S2, no murmur
   Abd: soft, nondistended, rare bowel sounds
   Ext: 2+ edema to shin bilaterally, weak pedal pulses bilaterally, warm
   Labs / Radiology
   304 K/uL
   10.2 g/dL
   67 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.9 mEq/L
   29 mg/dL
   117 mEq/L
   145 mEq/L
   28.9 %
   10.4 K/uL
        [image002.jpg]
                            [**2105-11-13**]  04:22 PM
                            [**2105-11-13**]  08:34 PM
                            [**2105-11-14**]  04:04 AM
   WBC
   9.0
   10.4
   Hct
   21.9
   28.9
   Plt
   340
   304
   Cr
   2.0
   1.7
   TropT
   0.07
   0.06
   TCO2
   21
   Glucose
   82
   67
   Other labs: PT / PTT / INR:12.3/27.1/1.0, CK / CKMB /
   Troponin-T:75/4/0.06, Differential-Neuts:88.5 %, Band:0.0 %, Lymph:6.6
   %, Mono:3.1 %, Eos:1.6 %, Lactic Acid:1.0 mmol/L, Ca++:7.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 **]-year-old man with history of HTN, hemolytic anemia, here with
   respiratory difficulty, intubated.
   .
   # Respiratory distress: significant sputum at NH per report with
   improved O2 sat after suctioning. Here with diffuse rhonchi, increased
   work of breathing on presentation, necessitating intubation. CXR was
   unremarkable, but fever, leukocytosis with left shift, and exam
   findings are concerning for pneumonia, ?aspiration. Pre-intubation ABG
   was consistent with acute respiratory alkalosis. Given improvement of
   O2 saturation on suctioning, unlikely to be PE. Urinary Legionella Ag
   negative.
   - continue empiric vanco and pip-tazo for now
   - sputum cx
   - blood cx
   - continue invasive ventilation for now; will decrease FiO2 and recheck
   VBG
   - repeat CXR tomorrow
   - monitor fever curve, trend WBC
   - sedation and analgesia prn for comfort
   .
   # Anemia: Hct 23.4 on admission, 24.7 on discharge from hospital on
   [**2105-11-6**]. History of Coombs negative hemolytic anemia. Tbili 2.3, down
   from last admission; hemolysis labs unremarkable. Hct increased to 29
   after 3 units of pRBCs.
   - trend Hct
   - continue steroids (now hydrocort), danazol 400 [**Hospital1 **] for now
   .
   # ARF: Cr 2.2 from 1.2 on discharge on [**2105-11-6**]. BUN also elevated to
   37. Likely prerenal azotemia. Cr trended down to 1.7 with IVF
   resuscitation.
   - IVF prn
   .
   # Elevated troponin: trop T 0.09 on presentation, CK 64, ECG with <1mm
   lateral ST depressions in V4 only. Trop 0.07 this morning. Likely
   elevated troponin in setting of ARF.
   - repeat ECG
   .
   # Duodenal ulcers: H. pylori serology negative.
   - no more clarithromycin and amoxicillin
   - continue PPI [**Hospital1 **]
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-11-13**] 02:03 PM
   18 Gauge - [**2105-11-13**] 02:03 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: wife [**Name (NI) **] [**Name (NI) 1362**] [**Telephone/Fax (1) 2470**]
   Code status: Full code
   Disposition: ICU

2105-11-14 09:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Afebrile
   - Low BP responsive to IVF boluses
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-11-14**] 08:05 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2105-11-13**] 07:09 PM
   Pantoprazole (Protonix) - [**2105-11-14**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-14**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 87 (84 - 111) bpm
   BP: 95/47(58) {83/11(40) - 146/111(119)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  6,933 mL
                                                                    544 mL
   PO:
           60 mL
   TF:
   IVF:
                                                                  4,020 mL
                                                                    221 mL
   Blood products:
                                                                    813 mL
                                                                    263 mL
   Total out:
                                                                    380 mL
                                                                    325 mL
   Urine:
                                                                    380 mL
                                                                    295 mL
   NG:
   30 mL
   Stool:
   Drains:
   Balance:
                                                                  6,553 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 467 (386 - 544) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.47/28/195/18/-1
   Ve: 11.2 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : LLL, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Unresponsive; Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   304 K/uL
   67 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.9 mEq/L
   29 mg/dL
   117 mEq/L
   145 mEq/L
   28.9 %
   10.4 K/uL
        [image002.jpg]
                            [**2105-11-13**]  04:22 PM
                            [**2105-11-13**]  08:34 PM
                            [**2105-11-14**]  04:04 AM
   WBC
   9.0
   10.4
   Hct
   21.9
   28.9
   Plt
   340
   304
   Cr
   2.0
   1.7
   TropT
   0.07
   0.06
   TCO2
   21
   Glucose
   82
   67
   Other labs: PT / PTT / INR:12.3/27.1/1.0, CK / CKMB /
   Troponin-T:75/4/0.06, Differential-Neuts:88.5 %, Band:0.0 %, Lymph:6.6
   %, Mono:3.1 %, Eos:1.6 %, Lactic Acid:1.0 mmol/L, Ca++:7.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 **]-year-old man with history of HTN, UGIB, hemolytic anemia, here with
   LLL pneumonia, intubated for respiratory distress.
   > Respiratory distress: significant sputum at NH per report with
   improved O2 sat after suctioning. Here with diffuse rhonchi, increased
   work of breathing on presentation, necessitating intubation. CXR was
   remarkable for LLL process with fever, leukocytosis with left shift,
   and exam findings are concerning for pneumonia, ?aspiration.
   Pre-intubation ABG was consistent with acute respiratory alkalosis.
   Legionella negative. GPC on sputum gram stain.
   - Continue empiric vanco and pip-tazo
   - F/u sputum and blood cx
   - Although patient on minimal vent settings and likely could be
   extubated from a respiratory standpoint, will continue invasive
   ventilation given hypotension and unresponsiveness.
   - Wean O2 to 40%
   - Repeat VBG
   > Hypotension: Intermittent, responsive to IVF boluses.
   - Will follow
   - Levophed prn to keep MAPs >55
   - Random cortisol 24.6, so unlikely adrenally insufficient, but since
   on standing pred at home and hypotensive, will put empirically on
   stress dose steroids in attempt to avoid pressors.  Hydrocortisone 50mg
   q6h.
   > Anemia: Hct 23.4 today, 24.7 on discharge from hospital on [**2105-11-6**].
   History of Coombs negative hemolytic anemia. Tbili 2.3, which is down
   from last admission; hemolysis labs unremarkable.
   - Will follow
   - Continue home regimen of prednisone 10 daily, danazol 400 [**Hospital1 **]
   > ARF: Cr 2.2 , now 1.7 (baseline 1.0-1.2). Likely prerenal azotemia.
   - IVF
   > Unreponsive: Likely due to sedation and infection in setting of
   dementia, but this could present a problem when patient ready to be
   extubated. Head CT demonstrated atrophy.
   - Hold sedation
   > BPH: s/p TURP with difficult foley placement
 ultimately placed
   under direct visualization by urology
   - Intermittent bladder irrigation via 3-way foley for traumatic
   hematuria
   >GI/FEN:
   - PPI
   - Nutrition c/s for TF
   All other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-11-13**] 02:03 PM
   20 Gauge - [**2105-11-14**] 08:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 42 minutes
   Patient is critically ill
   ------ Protected Section ------
   ICU attending
   Patient seen and examined with the ICU fellow, Dr. [**Last Name (STitle) 2256**].
   Patient remains hypotensive, responsive to fluids but requiring
   multiple fluid boluses in succession. Urine output trailing off; now
   less than 40 cc/hour for several hours. Patient is unresponsive off of
   sedation.
   On exam, patient is intubated and sedated. Pupils are small. No
   icterus. Chest is clear anterior and lateral exam. Heart sounds are
   soft with no gallop. There is a II/VI systolic murmur at the base.
   Abdomen with diminished bowel sounds. Soft and nontender. Extremities
   with 2+ edema. Warm and well perfused.
   CXR shows retrocardiac infiltrate vs atelectasis with air bronchograms.
   Labs: creat down to 1.7 this AM. Bicarb 18.
   Patient switched to PSV 5/5. VE is now 10L/min. Last ABG showed acute
   respiratory alkalosis.
   IMPRESSION:
   Pneumonia
   Acute respiratory failure
   Acute renal failure
   Hypotension
   Anemia
   Altered mental status
   Patient doing better with respect to acute respiratory failure. FIO2
   reduced to 0.3 on rounds. O2 sats remain at 100%.  Not clear why he has
   primary respiratory alkalosis; may have stimulation of pulmonary
   receptors from pneumonia/atelectasis. Continue on antibiotics for
   possible pneumonia. Maintain on PSV at this time.
   Hypotension likely related to low SVR from infection. Appears still to
   be intravascularly volume depleted. Continuing with fluid
   resuscitation. With onset of hyperchloremic metabolic acidosis from NS
   fluids, would switch to lactated Ringers solution. Concern about drop
   in urine output; may have high resistance in renal artery and need
   greater driving pressure to perfuse the kidneys. Will place central
   line to assess filling pressures and to enable administration of
   vasopressors if higher driving pressure is in fact needed to perfuse
   kidneys. Initial rise in creat likely reflects hypotension and possible
   mild ATN.
   Hct stable. No evidence of bleeding. Not at transfusion threshold at
   this time.
   Altered mental status now likely reflects residual effect of sedation.
   Hypoperfusion may also be playing a role. Continue to hold sedation.
   Attempt to increase blood pressure with fluids and possibly
   vasopressors pending CVP assessment.
   [**First Name4 (NamePattern1) 161**] [**Last Name (NamePattern1) **], MD
   Critical care: 40 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 161**] [**Last Name (NamePattern1) **], MD
   on:[**2105-11-14**] 14:14 ------

2105-11-15 09:51:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 EKG - At [**2105-11-14**] 10:13 AM
 MULTI LUMEN - START [**2105-11-14**] 03:32 PM
 right IJ
   Started vasopressin and levophed; able to be weaned off levophed
   overnight
   Started stress dose steroids
   Started tube feeds
   Gave > 8 liters of fluid over yesterday
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-11-14**] 03:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-15**] 12:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-11-14**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2105-11-15**] 06:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-15**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 97 (79 - 117) bpm
   BP: 133/71(86) {83/37(48) - 136/74(87)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 10 (2 - 11)mmHg
   Total In:
                                                                  6,260 mL
                                                                  3,769 mL
   PO:
                                                                    120 mL
   TF:
                                                                    144 mL
                                                                    323 mL
   IVF:
                                                                  5,513 mL
                                                                  3,186 mL
   Blood products:
                                                                    263 mL
   Total out:
                                                                    601 mL
                                                                    150 mL
   Urine:
                                                                    571 mL
                                                                    150 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  5,659 mL
                                                                  3,619 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 597 (414 - 689) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 46
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   CV: RRR
   Pulm coarse rhonchi bilaterally
   Peripheral Vascular: (Right radial pulse: +), (Left radial pulse: +),
   (Right DP pulse: +), (Left DP pulse: +)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands (opens eyes, sticks out
   tongue), Responds to: Verbal stimuli, Movement: Unpurposeful
   Labs / Radiology
   382 K/uL
   9.7 g/dL
   105 mg/dL
   1.4 mg/dL
   12 mEq/L
   4.1 mEq/L
   22 mg/dL
   114 mEq/L
   144 mEq/L
   28.8 %
   11.6 K/uL
        [image002.jpg]
                            [**2105-11-13**]  04:22 PM
                            [**2105-11-13**]  08:34 PM
                            [**2105-11-14**]  04:04 AM
                            [**2105-11-14**]  12:55 PM
                            [**2105-11-14**]  08:52 PM
                            [**2105-11-15**]  02:55 AM
   WBC
   9.0
   10.4
   12.2
   11.6
   Hct
   21.9
   28.9
   30.8
   30.0
   28.8
   Plt
   [**Telephone/Fax (3) 2500**]82
   Cr
   2.0
   1.7
   1.7
   1.6
   1.4
   TropT
   0.07
   0.06
   TCO2
   21
   Glucose
   82
   67
   105
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:75/4/0.06, Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.2
   %, Mono:1.8 %, Eos:0.1 %, Fibrinogen:415 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.5 g/dL, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   [**Age over 90 **]-year-old man with history of HTN, hemolytic anemia, here with
   respiratory difficulty, intubated.
   # Respiratory distress: significant sputum at NH per report with
   improved O2 sat after suctioning. Here with diffuse rhonchi, increased
   work of breathing on presentation, necessitating intubation. CXR was
   unremarkable, but fever, leukocytosis with left shift, and exam
   findings are concerning for pneumonia, ?aspiration. Pre-intubation ABG
   was consistent with acute respiratory alkalosis. Given improvement of
   O2 saturation on suctioning, unlikely to be PE. Urinary Legionella Ag
   negative.
   - continue empiric vanco and pip-tazo for now
readjusted for improved
   renal function
   - sputum cx
   - blood cx
   - continue in CPAP ventilation, if mental status improves can consider
   extubation
   - repeat CXR tomorrow
   - monitor fever curve, trend WBC
   - sedation and analgesia prn for comfort
   # Hypotension: started levophed and vasopressin. Levophed weaned off
   -- vasopressin for 24 more hr, then attempt to stop
   # Anemia: Hct 23.4 on admission, 24.7 on discharge from hospital on
   [**2105-11-6**]. History of Coombs negative hemolytic anemia. Tbili 2.3, down
   from last admission; hemolysis labs unremarkable. Hct increased to 29
   after 3 units of pRBCs.
   - trend Hct - stable
   - continue steroids (now hydrocort)
 wean hydrocort to 50 mg [**Hospital1 **]
   - danazol 400 [**Hospital1 **] for now
   # ARF: Cr 2.2 from 1.2 on discharge on [**2105-11-6**]. BUN also elevated to
   37. Likely prerenal azotemia. Cr trended down to 1.4 with IVF
   resuscitation.
   - IVF prn
   - Renally dose meds
   - Check urine lytes to see if component of ATN given persistent low UOP
   and recent hypotension
   # Metabolic Acidosis: likely due to renal failure. Check lytes [**Hospital1 **],
   consider giving bicarb if planning extubation b/b low bicarb
   -- Trend, anticipate resolution
   # Hyperglycemia: in setting of stress dose steroids
   - HISS
   # Elevated troponin: trop T 0.09 on presentation, CK 64, ECG with <1mm
   lateral ST depressions in V4 only. Trop 0.07 this morning. Likely
   elevated troponin in setting of ARF.
   - repeat ECG
   # Duodenal ulcers: H. pylori serology negative.
   - no more clarithromycin and amoxicillin
   - continue PPI [**Hospital1 **]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-11-14**] 03:10 PM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-11-13**] 02:03 PM
   20 Gauge - [**2105-11-14**] 08:10 AM
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP:  precautions
   Comments:
   Communication:  Wife, [**Name (NI) **] Comments:
   Code status: FULL
   Disposition: ICU

2105-11-15 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - RIJ TLC placed
   - Started on levophed and vasopressin
 now off levephed
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-11-14**] 03:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-15**] 12:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-11-14**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2105-11-15**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-15**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 97 (79 - 117) bpm
   BP: 133/71(86) {83/37(48) - 136/74(87)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 10 (2 - 11)mmHg
   Total In:
                                                                  6,260 mL
                                                                  3,816 mL
   PO:
                                                                    120 mL
   TF:
                                                                    144 mL
                                                                    356 mL
   IVF:
                                                                  5,513 mL
                                                                  3,200 mL
   Blood products:
                                                                    263 mL
   Total out:
                                                                    601 mL
                                                                    150 mL
   Urine:
                                                                    571 mL
                                                                    150 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  5,659 mL
                                                                  3,666 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 597 (414 - 689) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 46
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : LLL)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   382 K/uL
   105 mg/dL
   1.4 mg/dL
   12 mEq/L
   4.1 mEq/L
   22 mg/dL
   114 mEq/L
   144 mEq/L
   28.8 %
   11.6 K/uL
        [image002.jpg]
                            [**2105-11-13**]  04:22 PM
                            [**2105-11-13**]  08:34 PM
                            [**2105-11-14**]  04:04 AM
                            [**2105-11-14**]  12:55 PM
                            [**2105-11-14**]  08:52 PM
                            [**2105-11-15**]  02:55 AM
   WBC
   9.0
   10.4
   12.2
   11.6
   Hct
   21.9
   28.9
   30.8
   30.0
   28.8
   Plt
   [**Telephone/Fax (3) 2500**]82
   Cr
   2.0
   1.7
   1.7
   1.6
   1.4
   TropT
   0.07
   0.06
   TCO2
   21
   Glucose
   82
   67
   105
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:75/4/0.06, Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.2
   %, Mono:1.8 %, Eos:0.1 %, Fibrinogen:415 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.5 g/dL, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   [**Age over 90 **]-year-old man with history of HTN, UGIB, hemolytic anemia, here with
   LLL pneumonia, intubated for respiratory distress.
   > Respiratory distress: significant sputum at NH per report with
   improved O2 sat after suctioning. Here with diffuse rhonchi, increased
   work of breathing on presentation, necessitating intubation. CXR was
   remarkable for LLL process with fever, leukocytosis with left shift,
   and exam findings are concerning for pneumonia, ?aspiration.
   Pre-intubation ABG was consistent with acute respiratory alkalosis.
   Legionella negative. GPC on sputum gram stain.
   - Continue empiric vanco and pip-tazo
   - F/u sputum and blood cx
   - Although patient on minimal vent settings and likely could be
   extubated from a respiratory standpoint, will continue invasive
   ventilation given hypotension and slowing improving mental status
   (likely all sedation
 head CT negative). Maybe in am if off pressors
   and mental status improved.
   > Hypotension: Likely secondary to sepsis with low UOP.
   - Levophed off this am. Will continue vasopressin x 24 more hours.
   - Random cortisol 24.6, so unlikely adrenally insufficient, but since
   on standing pred at home and hypotensive, will put empirically on
   stress dose steroids in attempt to avoid pressors.
   > Anion gap (18) with low bicarb:  Concern for new metabolic acidosis
   superimposed upon respiratory alkalosis.
   - Recheck ABG
 7.39/23/109 c/w anion gap metabolic acidosis, maybe [**1-17**]
   ARF? Low bicarb could present difficulties when extubating.  Will
   follow for now and consider giving bicarb prior to extubation if not
   improving.
   > Anemia: Hct 23.4 today, 24.7 on discharge from hospital on [**2105-11-6**].
   History of Coombs negative hemolytic anemia. Tbili 2.3, which is down
   from last admission; hemolysis labs unremarkable.
   - Will follow
   - Continue home regimen of prednisone 10 daily, danazol 400 [**Hospital1 **]
   > ARF: Cr 2.2 , now 1.4 (baseline 1.0-1.2). Likely prerenal azotemia.
   But, UOP still poor at 10cc/hr
   - Continue to follow.  Consider lasix if BP stable.
   - Check urine lytes.
   > BPH: s/p TURP with difficult foley placement
 ultimately placed
   under direct visualization by urology
   - Intermittent bladder irrigation via 3-way foley for traumatic
   hematuria
   >GI/FEN:
   - PPI
   - Nutrition c/s for TF
   All other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-11-13**] 02:03 PM
   20 Gauge - [**2105-11-14**] 08:10 AM
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 42 minutes
   ------ Protected Section ------
   I was physically present with the resident and fellow for presentation
   and discussion of the critical components of the plan of care and I
   agree with the findings above.  I would add the following comments
   Patient with evolution of significant hypotension in the setting of
   likely pulmonary source of infection and sepsis.  He has had some
   meaningful response to IVF in the setting of what was likely
   signficiant hypovolemia and has maintained reasonable oxygenation on
   the ventilator settings above.
   Exam
Patient intubated, MAP-62
   Patient with diminished reponsivness but arousable to tactile simuli
   Lungs-_Decreased BS bilaterally
   A/P
[**Age over 90 **] yo male admit with likely pulmonary source for sepsis and now
   with improved hemodynamics with what has likely been appropriate
   response to significant volume replacement with NS and in that setting
   patient has evolved significant and persistent acidemia with aniong gap
   acidosis.
   Will
   -Continue with ABX
   -Wean vasopressin in am
   -Levophed off since early am
   -Will have to remain cautious with extubation is persisent and severe
   acidosis seen through to tomorrow am
   -Wife in to see patient and updated in full.
   Critical Care Time:35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2105-11-15**] 15:55 ------

2105-11-16 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - UOP remained low in spite of decent CVPs; MAPs good on 2.4 units/hr
   vasopression
   - Urine lytes consistent with prerenal (FENa 0.12%) with granular casts
   - Serum Cr/HCO3 slowly improving
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-11-14**] 03:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-16**] 02:04 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-11-15**] 08:00 PM
   Midazolam (Versed) - [**2105-11-16**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2105-11-16**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-16**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 69 (64 - 97) bpm
   BP: 123/64(77) {91/42(58) - 136/98(104)} mmHg
   RR: 31 (20 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 13 (6 - 16)mmHg
   Total In:
                                                                  5,534 mL
                                                                    556 mL
   PO:
   TF:
                                                                    512 mL
                                                                    140 mL
   IVF:
                                                                  4,657 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                    525 mL
                                                                    124 mL
   Urine:
                                                                    375 mL
                                                                    124 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  5,009 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 359 (352 - 586) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 77
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.45/24/95.[**Numeric Identifier **]/22/-4
   Ve: 10.3 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   CV: RRR
   Pulm coarse rhonchi bilaterally
   Peripheral Vascular: (Right radial pulse: +), (Left radial pulse: +),
   (Right DP pulse: +), (Left DP pulse: +)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands (opens eyes, sticks out
   tongue), Responds to: Verbal stimuli, Movement: Unpurposeful
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   329 K/uL
   8.9 g/dL
   195 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.5 mEq/L
   25 mg/dL
   112 mEq/L
   141 mEq/L
   25.5 %
   9.4 K/uL
        [image002.jpg]
                            [**2105-11-13**]  04:22 PM
                            [**2105-11-13**]  08:34 PM
                            [**2105-11-14**]  04:04 AM
                            [**2105-11-14**]  12:55 PM
                            [**2105-11-14**]  08:52 PM
                            [**2105-11-15**]  02:55 AM
                            [**2105-11-15**]  11:07 AM
                            [**2105-11-15**]  02:10 PM
                            [**2105-11-15**]  05:19 PM
                             [**2105-11-16**]  04:24 AM
   WBC
   9.0
   10.4
   12.2
   11.6
   9.4
   Hct
   21.9
   28.9
   30.8
   30.0
   28.8
   25.5
   Plt
   [**Telephone/Fax (3) 2500**]82
   329
   Cr
   2.0
   1.7
   1.7
   1.6
   1.4
   1.4
   1.4
   TropT
   0.07
   0.06
   TCO2
   21
   14
   17
   Glucose
   82
   67
   105
   173
   195
   Other labs: PT / PTT / INR:10.9/25.5/0.9, CK / CKMB /
   Troponin-T:75/4/0.06, Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.2
   %, Mono:1.8 %, Eos:0.1 %, Fibrinogen:415 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.5 g/dL, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] year-old man with history of hemolytic anemia, HTN, recent
   admissions for pancreatitis and GI bleed from duodenal ulcer presenting
   with respiratory failure
   # Respiratory failure: Question aspiration event versus pneumonia.
   Significant sputum at NH per report with improved O2 sat after
   suctioning.  Here with diffuse rhonchi, increased work of breathing on
   presentation, necessitating intubation.  CXR was unremarkable, but
   fever, leukocytosis with left shift, and exam findings are concerning
   for pneumonia.  Pre-intubation ABG was consistent with acute
   respiratory alkalosis. Given improvement of O2 saturation on
   suctioning, unlikely to be PE. Urinary Legionella Ag negative.
   - continue in CPAP ventilation, if mental status improves can consider
   extubation
   - Continue empiric vanco and pip-tazo for now
readjusted for improved
   renal function
   - Sputum culture with 1+ GPC on gram stain but culture only yeast
   - Blood cultures no growth to date
   - Monitor fever curve, trend WBC
   # Hypotension: Unclear etiology but consider sepsis.  Initially on
   levophed and vasopressin on admission . Levophed weaned off yesterday.
   - Wean vasopressin today as tolerated
   # Anemia: Hct 23.4 on admission, 24.7 on discharge from hospital on
   [**2105-11-6**].  Recent admission for GI bleed from duodenal ulcers.  History
   of Coombs negative hemolytic anemia with hemolysis labs unremarkable.
   Hct increased to 29 after 3 units of PRBC, now drifting down.
   - Trend HCT Q8H
   - Continue hydrocort to 50 mg [**Hospital1 **]
   - danazol 400 [**Hospital1 **] for now
   # ARF:Improving.  Cr 2.2 on admission to MICU from 1.2 on discharge on
   [**2105-11-6**]. BUN also elevated to 37. Likely prerenal azotemia. Cr trended
   down to 1.4 with IVF resuscitation.
   - IVF prn
   - Renally dose meds
   - Check urine lytes to see if component of ATN given persistent low UOP
   and recent hypotension
   # Metabolic Acidosis: Resolved.  Likely due to renal failure. Check
   lytes [**Hospital1 **], consider giving bicarb if planning extubation b/b low bicarb
   -- Trend, anticipate resolution
   # Hyperglycemia: In setting of stress dose steroids.
   - HISS
   # Duodenal ulcers: H. pylori serology negative.
   - discontinued clarithromycin and amoxicillin
   - continue PPI [**Hospital1 **]
   # Elevated troponin: Likely elevated troponin in setting of ARF.  Trop
   T 0.09 on presentation, CK 64, ECG with <1mm lateral ST depressions in
   V4 only. Trop 0.07 this morning.
   - repeat ECG stable yesterday
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-11-15**] 10:30 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-11-14**] 03:32 PM
   18 Gauge - [**2105-11-15**] 03:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2105-11-16 07:39:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 EKG - At [**2105-11-14**] 10:13 AM
 MULTI LUMEN - START [**2105-11-14**] 03:32 PM
   Started vasopressin and levophed; able to be weaned off levophed
   overnight
   Started stress dose steroids
   Started tube feeds
   Gave > 8 liters of fluid over yesterday
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-11-14**] 03:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-15**] 12:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-11-14**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2105-11-15**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-15**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 97 (79 - 117) bpm
   BP: 133/71(86) {83/37(48) - 136/74(87)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 10 (2 - 11)mmHg
   Total In:
                                                                  6,260 mL
                                                                  3,699 mL
   PO:
                                                                    120 mL
   TF:
                                                                    144 mL
                                                                    269 mL
   IVF:
                                                                  5,513 mL
                                                                  3,170 mL
   Blood products:
                                                                    263 mL
   Total out:
                                                                    601 mL
                                                                    135 mL
   Urine:
                                                                    571 mL
                                                                    135 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  5,659 mL
                                                                  3,564 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 597 (414 - 689) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 46
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 11 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   382 K/uL
   9.7 g/dL
   105 mg/dL
   1.4 mg/dL
   12 mEq/L
   4.1 mEq/L
   22 mg/dL
   114 mEq/L
   144 mEq/L
   28.8 %
   11.6 K/uL
        [image002.jpg]
                            [**2105-11-13**]  04:22 PM
                            [**2105-11-13**]  08:34 PM
                            [**2105-11-14**]  04:04 AM
                            [**2105-11-14**]  12:55 PM
                            [**2105-11-14**]  08:52 PM
                            [**2105-11-15**]  02:55 AM
   WBC
   9.0
   10.4
   12.2
   11.6
   Hct
   21.9
   28.9
   30.8
   30.0
   28.8
   Plt
   [**Telephone/Fax (3) 2500**]82
   Cr
   2.0
   1.7
   1.7
   1.6
   1.4
   TropT
   0.07
   0.06
   TCO2
   21
   Glucose
   82
   67
   105
   Other labs: PT / PTT / INR:12.2/31.2/1.0, CK / CKMB /
   Troponin-T:75/4/0.06, Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.2
   %, Mono:1.8 %, Eos:0.1 %, Fibrinogen:415 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.5 g/dL, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-11-14**] 03:10 PM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-11-13**] 02:03 PM
   20 Gauge - [**2105-11-14**] 08:10 AM
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2105-11-16 10:34:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Problems include Respiratory Failure
   Hypotension -
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-11-14**] 03:31 PM
   Vancomycin - [**2105-11-16**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-16**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-11-16**] 06:07 AM
   Pantoprazole (Protonix) - [**2105-11-16**] 08:00 AM
   Midazolam (Versed) - [**2105-11-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-16**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 57 (57 - 93) bpm
   BP: 103/53(65) {91/42(58) - 136/98(104)} mmHg
   RR: 15 (15 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
   CVP: 11 (9 - 16)mmHg
   Total In:
                                                                  5,534 mL
                                                                  1,045 mL
   PO:
   TF:
                                                                    512 mL
                                                                    156 mL
   IVF:
                                                                  4,657 mL
                                                                    669 mL
   Blood products:
   Total out:
                                                                    525 mL
                                                                    194 mL
   Urine:
                                                                    375 mL
                                                                    194 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  5,009 mL
                                                                    851 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 291 (291 - 586) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 77
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: 7.45/24/95.[**Numeric Identifier **]/22/-4
   Ve: 11.5 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   329 K/uL
   195 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.5 mEq/L
   25 mg/dL
   112 mEq/L
   141 mEq/L
   25.5 %
   9.4 K/uL
        [image002.jpg]
                            [**2105-11-13**]  04:22 PM
                            [**2105-11-13**]  08:34 PM
                            [**2105-11-14**]  04:04 AM
                            [**2105-11-14**]  12:55 PM
                            [**2105-11-14**]  08:52 PM
                            [**2105-11-15**]  02:55 AM
                            [**2105-11-15**]  11:07 AM
                            [**2105-11-15**]  02:10 PM
                            [**2105-11-15**]  05:19 PM
                             [**2105-11-16**]  04:24 AM
   WBC
   9.0
   10.4
   12.2
   11.6
   9.4
   Hct
   21.9
   28.9
   30.8
   30.0
   28.8
   25.5
   Plt
   [**Telephone/Fax (3) 2500**]82
   329
   Cr
   2.0
   1.7
   1.7
   1.6
   1.4
   1.4
   1.4
   TropT
   0.07
   0.06
   TCO2
   21
   14
   17
   Glucose
   82
   67
   105
   173
   195
   Other labs: PT / PTT / INR:10.9/25.5/0.9, CK / CKMB /
   Troponin-T:75/4/0.06, Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.2
   %, Mono:1.8 %, Eos:0.1 %, Fibrinogen:415 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.5 g/dL, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
   UOP -
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Liek respiratory sources, no postive cultures. DC vasopressin.
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   Somewhat somnolent, not clearly follwing plans. DC sedation today.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Now resolved. Still somewhat somnolent - 30 minutes 0/0 and look to
   extubate today.
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
   ICU Care
   Nutrition:
   Comments: NPO pending extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2105-11-17 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Changed steroids to home prednisone 10 mg daily
   - Discontinued vasopressin
   - SBP 80s off vasopressin; responded to IVF
   - With hemodynamic uncertainty at 4 pm, held off on extubation, held
   tube feeds for possible extubation this morning
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-11-14**] 03:31 PM
   Vancomycin - [**2105-11-16**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-17**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-11-16**] 08:00 PM
   Midazolam (Versed) - [**2105-11-17**] 12:15 AM
   Heparin Sodium (Prophylaxis) - [**2105-11-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-17**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 78 (57 - 89) bpm
   BP: 110/51(65) {79/38(48) - 143/97(104)} mmHg
   RR: 24 (15 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 9 (5 - 12)mmHg
   Total In:
                                                                  3,418 mL
                                                                    297 mL
   PO:
   TF:
                                                                    339 mL
   IVF:
                                                                  2,539 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    381 mL
                                                                    205 mL
   Urine:
                                                                    381 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,037 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (306 - 376) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 80
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Heart: Regular rate and rhythm
   Lungs: Coarse rhonchi bilaterally
   Peripheral Vascular: (Right radial pulse: +), (Left radial pulse: +),
   (Right DP pulse: +), (Left DP pulse: +)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands (opens eyes, sticks out
   tongue), Responds to: Verbal stimuli, Movement: Unpurposeful
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   363 K/uL
   9.7 g/dL
   100 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.6 mEq/L
   25 mg/dL
   111 mEq/L
   140 mEq/L
   28.2 %
   11.3 K/uL
        [image002.jpg]
                            [**2105-11-14**]  04:04 AM
                            [**2105-11-14**]  12:55 PM
                            [**2105-11-14**]  08:52 PM
                            [**2105-11-15**]  02:55 AM
                            [**2105-11-15**]  11:07 AM
                            [**2105-11-15**]  02:10 PM
                            [**2105-11-15**]  05:19 PM
                             [**2105-11-16**]  04:24 AM
                             [**2105-11-16**]  04:48 PM
                             [**2105-11-17**]  03:21 AM
   WBC
   10.4
   12.2
   11.6
   9.4
   11.3
   Hct
   28.9
   30.8
   30.0
   28.8
   25.5
   26.3
   28.2
   Plt
   [**Telephone/Fax (3) 2556**]29
   363
   Cr
   1.7
   1.7
   1.6
   1.4
   1.4
   1.4
   1.4
   TropT
   0.06
   TCO2
   14
   17
   Glucose
   67
   105
   173
   195
   100
   Other labs: PT / PTT / INR:10.9/25.5/0.9, CK / CKMB /
   Troponin-T:75/4/0.06, Alk Phos / T Bili:/0.8, Differential-Neuts:94.7
   %, Band:0.0 %, Lymph:3.2 %, Mono:1.8 %, Eos:0.1 %, Fibrinogen:415
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:211 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] year-old man with history of hemolytic anemia, HTN, recent
   admissions for pancreatitis and GI bleed from duodenal ulcer presenting
   with respiratory failure
   # Respiratory failure: RSBI 80 this morning
planned on extubation
   yesterday but held off due to low SBPs.  Question pneumonia versus
   aspiration event.  Significant sputum at NH per report with improved O2
   saturation after suctioning.  Here with diffuse rhonchi and increased
   work of breathing on presentation necessitating intubation on
   admission.  CXR was unremarkable, but fever, leukocytosis with left
   shift, and exam findings concerning for pneumonia.  Pre-intubation ABG
   was consistent with acute respiratory alkalosis.  Unlikely to be PE
   given improvement of O2 saturation on suctioning.
   - Extubate today
   - Continue empiric coverage for pneumonia with zosyn/vancomycin to
   complete a 7-day course
   - Sputum culture with 1+ GPC on gram stain but culture only yeast;
   urinary Legionella Ag negative
   - Blood cultures no growth to date
   # Hypotension: Improved.  Unclear etiology but presumed due to sepsis.
   Levophed off x 24 hours and vasopressin off since yesterday afternoon.
   SBP 80s initially off vasopressin but good response to fluids.
   Stress-dose steroids discontinued yesterday for home prednisone dose.
   - Continue antibiotics as above
   # Acute renal failure: Stable.  Cr 2.2 on admission to MICU from 1.2 on
   discharge [**2105-11-6**]. BUN also elevated to 37. Was prerenal with Cr
   trending down to 1.4 with IVF resuscitation
 consider now ATN versus
   new baseline.
   - Continue IVF and monitor UOP
   - Renally dose medications
   # Anemia: Stable.  Hct 23.4 on admission, 24.7 on discharge from
   hospital on [**2105-11-6**].  Recent admission with GI bleed from duodenal
   ulcers.  History of Coombs negative hemolytic anemia with hemolysis
   labs unremarkable.  Hct increased to 29 after 3 units of PRBC.
   - Trend HCT daily
   - Continue home prednisone 10 mg daily for hemolytic anemia
   - Continue danazol 400 mg [**Hospital1 **] for hemolytic anemia
   # Hyperglycemia: Improved off stress dose steroids and tube feeds.
   - Continue HISS and monitor
   # Metabolic Acidosis: Resolved.  Due to renal failure.
   # Elevated troponin: Trended down.  No EKG changes.  Likely due to
   acute renal failure.  Troponin T 0.09 on presentation with CK 64.  ECG
   with < 1mm lateral ST depressions in V4 only.
   ICU Care
   Nutrition:
   Glycemic Control: HISS
   Lines:
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  PPI
   VAP: Oral care
 plan to extubate
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Pending extubation

2105-11-17 07:49:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-11-14**] 03:31 PM
   Vancomycin - [**2105-11-16**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-17**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-11-16**] 08:00 PM
   Midazolam (Versed) - [**2105-11-17**] 12:15 AM
   Heparin Sodium (Prophylaxis) - [**2105-11-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-17**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 78 (57 - 89) bpm
   BP: 110/51(65) {79/38(48) - 143/97(104)} mmHg
   RR: 24 (15 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 9 (5 - 12)mmHg
   Total In:
                                                                  3,418 mL
                                                                    298 mL
   PO:
   TF:
                                                                    339 mL
   IVF:
                                                                  2,539 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    381 mL
                                                                    205 mL
   Urine:
                                                                    381 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,037 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (306 - 376) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 80
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 11.2 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   363 K/uL
   100 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.6 mEq/L
   25 mg/dL
   111 mEq/L
   140 mEq/L
   28.2 %
   11.3 K/uL
        [image002.jpg]
                            [**2105-11-14**]  04:04 AM
                            [**2105-11-14**]  12:55 PM
                            [**2105-11-14**]  08:52 PM
                            [**2105-11-15**]  02:55 AM
                            [**2105-11-15**]  11:07 AM
                            [**2105-11-15**]  02:10 PM
                            [**2105-11-15**]  05:19 PM
                             [**2105-11-16**]  04:24 AM
                             [**2105-11-16**]  04:48 PM
                             [**2105-11-17**]  03:21 AM
   WBC
   10.4
   12.2
   11.6
   9.4
   11.3
   Hct
   28.9
   30.8
   30.0
   28.8
   25.5
   26.3
   28.2
   Plt
   [**Telephone/Fax (3) 2556**]29
   363
   Cr
   1.7
   1.7
   1.6
   1.4
   1.4
   1.4
   1.4
   TropT
   0.06
   TCO2
   14
   17
   Glucose
   67
   105
   173
   195
   100
   Other labs: PT / PTT / INR:10.9/25.5/0.9, CK / CKMB /
   Troponin-T:75/4/0.06, Alk Phos / T Bili:/0.8, Differential-Neuts:94.7
   %, Band:0.0 %, Lymph:3.2 %, Mono:1.8 %, Eos:0.1 %, Fibrinogen:415
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:211 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] year-old man with history of hemolytic anemia, HTN, recent
   admissions for pancreatitis and GI bleed from duodenal ulcer presenting
   with respiratory failure
   # Respiratory failure: RSBI 77 this morning.  Question pneumonia versus
   aspiration event.  Significant sputum at NH per report with improved O2
   saturation after suctioning.  Here with diffuse rhonchi and increased
   work of breathing on presentation necessitating intubation on
   admission.  CXR was unremarkable, but fever, leukocytosis with left
   shift, and exam findings concerning for pneumonia.  Pre-intubation ABG
   was consistent with acute respiratory alkalosis.  Unlikely to be PE
   given improvement of O2 saturation on suctioning.
   - Extubate today
   - Continue empiric coverage for pneumonia with zosyn/vancomycin
   - Sputum culture with 1+ GPC on gram stain but culture only yeast;
   urinary Legionella Ag negative
   - Blood cultures no growth to date
   # Hypotension: Unclear etiology but presumed due to sepsis.  Initially
   on levophed and vasopressin on admission . Levophed weaned off
   yesterday.
   - Discontinue vasopressin today
   - Change stress-dose steroids to home prednisone 10 mg daily
   # ARF:Stable.  Cr 2.2 on admission to MICU from 1.2 on discharge
   [**2105-11-6**]. BUN also elevated to 37. Prerenal with Cr trending down to
   1.4 with IVF resuscitation
   - Continue IVF and monitor UOP
   - Renally dose medications
   # Anemia: Hct 23.4 on admission, 24.7 on discharge from hospital on
   [**2105-11-6**].  Recent admission for GI bleed from duodenal ulcers.  History
   of Coombs negative hemolytic anemia with hemolysis labs unremarkable.
   Hct increased to 29 after 3 units of PRBC.  Hematocrit drifting down
   slowly, likely dilutional due to IVF.
   - Trend HCT daily
   - Continue home prednisone 10 mg daily
   - Continue danazol 400 mg [**Hospital1 **]
   # Hyperglycemia: In setting of stress dose steroids and tube feeds.
   - Tighten HISS
   - Discontinue TF as patient to be extubated
   # Metabolic Acidosis: Resolved.  Due to renal failure.
   # Elevated troponin: Trended down.  Likely due to acute renal failure.
   Troponin T 0.09 on presentation with CK 64.  ECG with < 1mm lateral ST
   depressions in V4 only.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2105-11-18 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - SBT with gas: 7.47/29/74
   - Given increased b/l pleural effusions, held on extubation and sent
   sputum culture
   - Urine electrolytes show FeNa 1.9% c/w instrinsic renal process
   potentially ATN
   - Diuresis with albumin 25gm *2, no lasix given borderline pressures
   - Decreased sputum production overnight
   - RSBI 53 this morning
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2105-11-17**] 09:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-18**] 02:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-11-17**] 08:30 AM
   Midazolam (Versed) - [**2105-11-17**] 01:25 PM
   Fentanyl - [**2105-11-17**] 01:25 PM
   Heparin Sodium (Prophylaxis) - [**2105-11-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-18**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 64 (58 - 99) bpm
   BP: 107/52(65) {80/39(32) - 129/76(86)} mmHg
   RR: 22 (19 - 50) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 4 (3 - 13)mmHg
   Total In:
                                                                  2,553 mL
                                                                    618 mL
   PO:
   TF:
                                                                    323 mL
                                                                    179 mL
   IVF:
                                                                  1,490 mL
                                                                    238 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                    820 mL
                                                                    190 mL
   Urine:
                                                                    820 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,733 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 391 (391 - 500) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 53
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.47/29/74/23/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 247
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Heart: Regular rate and rhythm
   Lungs: Coarse rhonchi bilaterally
   Peripheral Vascular: (Right radial pulse: +), (Left radial pulse: +),
   (Right DP pulse: +), (Left DP pulse: +)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands (opens eyes, sticks out
   tongue), Responds to: Verbal stimuli, Movement: Unpurposeful
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   330 K/uL
   9.8 g/dL
   122 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   22 mg/dL
   110 mEq/L
   139 mEq/L
   28.8 %
   12.5 K/uL
        [image002.jpg]
                            [**2105-11-14**]  08:52 PM
                            [**2105-11-15**]  02:55 AM
                            [**2105-11-15**]  11:07 AM
                            [**2105-11-15**]  02:10 PM
                            [**2105-11-15**]  05:19 PM
                             [**2105-11-16**]  04:24 AM
                             [**2105-11-16**]  04:48 PM
                             [**2105-11-17**]  03:21 AM
                             [**2105-11-17**]  12:56 PM
                             [**2105-11-18**]  04:10 AM
   WBC
   11.6
   9.4
   11.3
   12.5
   Hct
   30.0
   28.8
   25.5
   26.3
   28.2
   28.8
   Plt
   382
   329
   363
   330
   Cr
   1.6
   1.4
   1.4
   1.4
   1.4
   1.3
   TCO2
   14
   17
   22
   Glucose
   105
   173
   195
   100
   122
   Other labs: PT / PTT / INR:10.9/25.5/0.9, CK / CKMB /
   Troponin-T:75/4/0.06, Alk Phos / T Bili:/0.8, Differential-Neuts:94.7
   %, Band:0.0 %, Lymph:3.2 %, Mono:1.8 %, Eos:0.1 %, Fibrinogen:415
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:211 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] year-old man with history of hemolytic anemia, HTN, recent
   admissions for pancreatitis and GI bleed from duodenal ulcer presenting
   with respiratory failure.
   # Respiratory failure: Pneumonia versus pneumonitis.  RSBI 53 this
   morning
planned on extubation yesterday but held due to moderate thick
   secretions.  Now little/no secretions.  Repeat sputum yesterday with 2+
   GPC in pairs/chains present previously.
   - Extubate today
   - Continue empiric coverage for pneumonia with zosyn/vancomycin to
   complete a 7-day course
   - Sputum culture with 1+ GPC on gram stain but culture only yeast;
   urinary Legionella Ag negative
   - Blood cultures no growth to date
   # Hypotension: Improved.  Unclear etiology but presumed due to sepsis.
   Off levophed x 48 hours and vasopressin over 24 hours.  Initially on
   stress-dose steroids but now on home prednisone dose for over 48 hours.
   - Continue antibiotics as above
   # Acute renal failure: Improving.  Cr 2.2 on admission from baseline
   1.2.  Was prerenal with Cr trending down to 1.4 with IVF resuscitation
 now urine electrolytes consistent with ATN.
   - Monitor
   - Renally dose medications
   # Leukocytosis: Mild.  Patient remains afebrile.
   - Treatment for pneumonia as above
   - Monitor
   # Altered mental status: Patient responding appropriately to commands
   this morning.
   - Will monitor off sedation
   # Anemia: Stable.  Hct 23.4 on admission, 24.7 on discharge from
   hospital on [**2105-11-6**].  Recent admission with GI bleed from duodenal
   ulcers.  History of Coombs negative hemolytic anemia with hemolysis
   labs unremarkable.  Hct increased to 29 after 3 units of PRBC.
   - Trend HCT daily
   - Continue home prednisone 10 mg daily for hemolytic anemia
   - Continue danazol 400 mg [**Hospital1 **] for hemolytic anemia
   # Hyperglycemia: Improved off stress dose steroids and tube feeds.
   - Continue HISS and monitor
   ICU Care
   Nutrition: TF on hold for potential extubation
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP: Oral care, potential extubation
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Pending extubation

2105-11-18 10:27:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2105-11-17**] 04:00 PM
 URINE CULTURE - At [**2105-11-17**] 04:15 PM
   RSBI ~ 50 this am. No extubation yesterday [**1-17**] increased secretions.
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2105-11-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2105-11-17**] 01:25 PM
   Fentanyl - [**2105-11-17**] 01:25 PM
   Heparin Sodium (Prophylaxis) - [**2105-11-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-18**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 76 (58 - 82) bpm
   BP: 128/57(76) {80/39(32) - 129/76(86)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 7 (4 - 13)mmHg
   Total In:
                                                                  2,553 mL
                                                                    992 mL
   PO:
   TF:
                                                                    323 mL
                                                                    179 mL
   IVF:
                                                                  1,490 mL
                                                                    578 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                    820 mL
                                                                    230 mL
   Urine:
                                                                    820 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,733 mL
                                                                    762 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 482 (354 - 500) mL
   PS : 5 cmH2O
   RR (Spontaneous): 42
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.47/29/74/23/0
   Ve: 19.1 L/min
   PaO2 / FiO2: 247
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   330 K/uL
   122 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   22 mg/dL
   110 mEq/L
   139 mEq/L
   28.8 %
   12.5 K/uL
        [image002.jpg]
                            [**2105-11-14**]  08:52 PM
                            [**2105-11-15**]  02:55 AM
                            [**2105-11-15**]  11:07 AM
                            [**2105-11-15**]  02:10 PM
                            [**2105-11-15**]  05:19 PM
                             [**2105-11-16**]  04:24 AM
                             [**2105-11-16**]  04:48 PM
                             [**2105-11-17**]  03:21 AM
                             [**2105-11-17**]  12:56 PM
                             [**2105-11-18**]  04:10 AM
   WBC
   11.6
   9.4
   11.3
   12.5
   Hct
   30.0
   28.8
   25.5
   26.3
   28.2
   28.8
   Plt
   382
   329
   363
   330
   Cr
   1.6
   1.4
   1.4
   1.4
   1.4
   1.3
   TCO2
   14
   17
   22
   Glucose
   105
   173
   195
   100
   122
   Other labs: PT / PTT / INR:10.9/25.5/0.9, CK / CKMB /
   Troponin-T:75/4/0.06, Alk Phos / T Bili:/0.8, Differential-Neuts:94.7
   %, Band:0.0 %, Lymph:3.2 %, Mono:1.8 %, Eos:0.1 %, Fibrinogen:415
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:211 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   resolved. Aim TBB even today.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   [**1-17**] PNA, now resolved. Continues on Vanc Zosyn for total 7 day course.
   (currently day 5)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   Sedation off, following simple commands.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Extubate today
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: On hold for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan, written by Dr. [**Last Name (STitle) **].
   [**Location (un) 2599**]. I would emphasize and add the following points: [**Age over 90 **]M respiratory
   failure, volume overload, hemolytic anemia, duodenal ulcers.
   Exam notable for Tm 98.9 BP 120/70 HR 80 RR 18 with sat 95 on PSV 5/5
   RSBI 53. WD man, follows commands, denises pain. Coarse BS B, RRR s1s2.
   Soft, NT, 3+ edema. Labs notable for WBC 12K, HCT 28, K+ 3.9, Cr 1.3.
   Agree with plan to continue empiric treatment for pneumonia and
   extubate today as his acute respiratory failure in improving and
   secretions have decreased in volume. Will monitor post extubation and
   consider gentle diuresis. Can d/c CVL once extubated. Remainder of plan
   as outlined above.
   Patient is critically ill
   Total time: 35min

2105-11-19 07:52:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
   Hematuria from foley, urology was consulted and felt related to prior
   trauma, treated pain with morphine
   Changed code status to DNR/DNI after discussion with wife
   Extubated
   Failed speech and [** 2626**] consult
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2105-11-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-18**] 08:00 AM
   Piperacillin - [**2105-11-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-11-18**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2105-11-19**] 06:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-11-19**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 86 (65 - 86) bpm
   BP: 114/68(81) {88/49(57) - 157/79(95)} mmHg
   RR: 30 (17 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 8 (0 - 9)mmHg
   Total In:
                                                                  1,229 mL
                                                                    178 mL
   PO:
   TF:
                                                                    179 mL
   IVF:
                                                                    815 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    205 mL
   Urine:
                                                                    705 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    524 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Face tent, 40% FiO2, and 97% O2sat
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Wheezes : end espiratory, Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, location, month
   Labs / Radiology
   350 K/uL
   10.4 g/dL
   75 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.1 mEq/L
   20 mg/dL
   108 mEq/L
   140 mEq/L
   29.7 %
   14.5 K/uL
        [image002.jpg]
                            [**2105-11-15**]  02:55 AM
                            [**2105-11-15**]  11:07 AM
                            [**2105-11-15**]  02:10 PM
                            [**2105-11-15**]  05:19 PM
                             [**2105-11-16**]  04:24 AM
                             [**2105-11-16**]  04:48 PM
                             [**2105-11-17**]  03:21 AM
                             [**2105-11-17**]  12:56 PM
                             [**2105-11-18**]  04:10 AM
                             [**2105-11-19**]  04:56 AM
   WBC
   11.6
   9.4
   11.3
   12.5
   14.5
   Hct
   28.8
   25.5
   26.3
   28.2
   28.8
   29.7
   Plt
   382
   329
   363
   330
   350
   Cr
   1.4
   1.4
   1.4
   1.4
   1.3
   1.3
   TCO2
   14
   17
   22
   Glucose
   105
   173
   195
   100
   122
   75
   Other labs: PT / PTT / INR:11.3/29.5/0.9, CK / CKMB /
   Troponin-T:75/4/0.06, ALT / AST:13/20, Alk Phos / T Bili:37/1.1,
   Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.2 %, Mono:1.8 %, Eos:0.1
   %, Fibrinogen:415 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL,
   LDH:211 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] year-old man with history of hemolytic anemia, HTN, recent
   admissions for pancreatitis and GI bleed from duodenal ulcer presenting
   with respiratory failure.
   # Respiratory failure: Pneumonia versus pneumonitis.  Intubated 4 days
   then extubated. Currently doing weel with little to no secretions.
   Repeat sputum yesterday with 2+ GPC in pairs/chains present previously,
   but no speciation. Urinary legionella was negative
   - Continue empiric coverage for pneumonia with zosyn/vancomycin to
   complete a 7-day course, last day [**11-20**]
   - Follow sputum cultures
   - Blood cultures no growth to date
   - Wean off O2
   # Hypotension: Improved.  Unclear etiology but presumed due to sepsis.
   Off levophed > 48 hours and vasopressin > 24 hours.  Initially on
   stress-dose steroids but now on home prednisone dose for over 48 hours.
   - Continue antibiotics as above
   # Acute renal failure: Improving.  Cr 2.2 on admission from baseline
   1.2.  Creatinine improving, urine lytes consistent with ATN. Cr 1.3
   today. UOP low, give 500 ml NS bolus to see if UOP increases.
   - Monitor
   - Renally dose medications
   # Leukocytosis: Persistant, patient improving and afebrile.
   - Treatment for pneumonia as above
   - Monitor
   # Altered mental status: Patient responding appropriately to commands
   this morning.
   - Baseline
   # Anemia: Stable.  Hct 23.4 on admission, 24.7 on discharge from
   hospital on [**2105-11-6**].  Recent admission with GI bleed from duodenal
   ulcers.  History of Coombs negative hemolytic anemia with hemolysis
   labs unremarkable.  Hct increased to 29 after 3 units of PRBC.
   - Trend HCT daily
   - Continue home prednisone 10 mg daily for hemolytic anemia
   - Continue danazol 400 mg [**Hospital1 **] for hemolytic anemia
   # Hyperglycemia: Improved off stress dose steroids and tube feeds.
   Resolved, but patient not eating
   - Continue HISS and monitor
   ICU Care
   Nutrition: NPO given failed speech and [**Last Name (LF) 2626**], [**First Name3 (LF) 116**] reassess in pm
   Glycemic Control:  Humalog  insulin sliding scale
   Lines:
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: on PPI
   VAP:
   Comments: not intubated
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: call out to floor in pm if continues to improve

2105-11-19 10:49:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Code status changed to DNR/DNI. Extubated yesterday.
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-11-18**] 08:00 AM
   Piperacillin - [**2105-11-19**] 09:44 AM
   Vancomycin - [**2105-11-19**] 10:17 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-11-18**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2105-11-19**] 06:00 AM
   Pantoprazole (Protonix) - [**2105-11-19**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-11-19**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 86 (65 - 92) bpm
   BP: 132/51(69) {88/49(57) - 157/79(95)} mmHg
   RR: 26 (17 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 6 (0 - 9)mmHg
   Total In:
                                                                  1,229 mL
                                                                    515 mL
   PO:
   TF:
                                                                    179 mL
   IVF:
                                                                    815 mL
                                                                    515 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    240 mL
   Urine:
                                                                    705 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    524 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   350 K/uL
   75 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.1 mEq/L
   20 mg/dL
   108 mEq/L
   140 mEq/L
   29.7 %
   14.5 K/uL
        [image002.jpg]
                            [**2105-11-15**]  02:55 AM
                            [**2105-11-15**]  11:07 AM
                            [**2105-11-15**]  02:10 PM
                            [**2105-11-15**]  05:19 PM
                             [**2105-11-16**]  04:24 AM
                             [**2105-11-16**]  04:48 PM
                             [**2105-11-17**]  03:21 AM
                             [**2105-11-17**]  12:56 PM
                             [**2105-11-18**]  04:10 AM
                             [**2105-11-19**]  04:56 AM
   WBC
   11.6
   9.4
   11.3
   12.5
   14.5
   Hct
   28.8
   25.5
   26.3
   28.2
   28.8
   29.7
   Plt
   382
   329
   363
   330
   350
   Cr
   1.4
   1.4
   1.4
   1.4
   1.3
   1.3
   TCO2
   14
   17
   22
   Glucose
   105
   173
   195
   100
   122
   75
   Other labs: PT / PTT / INR:11.3/29.5/0.9, CK / CKMB /
   Troponin-T:75/4/0.06, ALT / AST:13/20, Alk Phos / T Bili:37/1.1,
   Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.2 %, Mono:1.8 %, Eos:0.1
   %, Fibrinogen:415 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL,
   LDH:211 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   [**1-17**] pneumonia, now extubated and weaning fi02.
   Vanc zosyn to complete 7 day course. Ends tomorrow.
   Hypotension
   Off pressors, fluid responsive. Low UOP, , likely somewhat hypovolemic
   wiil give IVF today.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2105-11-14**] 03:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes